Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lethargy and hypoxia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
 Patient is a ___ y/o M w/ recent hospitalization for volume 
overload and diastolic CHF who presents from ___ with 
desaturations to ___ on room air this morning and lethargy. 
Patient reports intermittent chest pain over the past week with 
SOB. Denies abdominal pain at this time nor fevers chills or 
sweats.
In the ED, initial vitals were 98.0 67 184/97 15 99% 4L Nasal. 
Labs were notable for WBC of 8.5 (N:74 Band:1 ___ M:6 E:1), Hct 
34.9, proBNP: 2701 (uncertain about baseline), Creatine for 2.8 
from baseline of (1.6-2.2), K of 6.7 in a hemolyzed sample. 
Repeated K was 5.6 pt showed no EKG changes and did not received 
Kayexalate. His Trop was 0.05 higher than baseline on the 
setting of increase creatine. cxray w/ left basilar opacity and 
effusion
 
Past Medical History:
Diabetes melitus
CKD w/ h/o hyperkalemia
hyperlipidemia
O/A
hypertension
BPH
h/o DVT
h/o prostate CA previously with external beam radiation
erectile dysfunction
ex lap in ___ in ___, reportedly nothing found
decreased hearing, reportedly was told he needs a hearing aid
but did not get one
CVA - on asa 81mg daily
 
Social History:
___
Family History:
Cancer - unable to be specific  
 
Physical Exam:
Admission Exam:
VS: 96.1 70 160/82 18 96 4L
GA: AOx3, uncomfortable breathing
HEENT: MMM. no JVD appreciable
Cards: RRR S1/S2 heard. no murmurs/gallops/rubs.
Pulm: wheezes with crackles B/L
Abd: soft, NT,
Extremities: 2+ pitting edema B/L up to knees
Skin: WWP
Neuro/Psych: CNs II-XII intact. U/L Ext full strength x4
 
Pertinent Results:
___ 10:20AM BLOOD WBC-8.5 RBC-3.79* Hgb-11.2* Hct-34.9* 
MCV-92 MCH-29.6 MCHC-32.2 RDW-15.9* Plt ___
___ 10:20AM BLOOD Neuts-74* Bands-1 ___ Monos-6 Eos-1 
Baso-0 ___ Myelos-0 NRBC-1*
___ 10:20AM BLOOD ___ PTT-27.5 ___
___ 06:20AM BLOOD ___ PTT-27.6 ___
___ 10:20AM BLOOD Glucose-109* UreaN-59* Creat-2.8* Na-142 
K-6.7* Cl-107 HCO3-22 AnGap-20
___ 05:40AM BLOOD CK(CPK)-588*
___ 10:20AM BLOOD cTropnT-0.05*
___ 06:10PM BLOOD CK-MB-7 cTropnT-0.06*
___ 12:05AM BLOOD CK-MB-7 cTropnT-0.06*
___ 05:40AM BLOOD CK-MB-6 cTropnT-0.07*
___ 06:20AM BLOOD Mg-1.9
___ 10:29AM BLOOD Glucose-101 Lactate-0.9 K-6.9*
___ 10:51AM BLOOD K-5.6*
___ 07:03PM BLOOD K-5.2

___ CXR:
Obscuration of left hemidiaphragm suggests the presence of a 
left
basilar opacity, which could reflect atelectasis or infection. A 
small left
pleural effusion is likely present. Consider PA and lateral 
views for further
evaluation.

___ CT And and Pelvis:
 
IMPRESSION:
1. Unchanged left adrenal mass, compatible with an adenoma.
2. No evidence of abdominal aortic aneurysm or pancreatic 
pathology within
the limitations of a noncontrast study.
3. Small bilateral pleural effusions with associated bibasilar 
atelectasis.
 
Brief Hospital Course:
 ___ y/o M w/ HTN, DM, CKD, diastolic CHF admitting from nursing 
home with hypoxia and intermittent chest pain, found to have 
acute on chronic diastolic CHF exacerbation.
.
# Acute on Chronic dCHF exacerbation: Pt was volume up on 
admission, per CXR and PE. He reports recent hx of dietary 
indiscretion.  Echo ___ revealed LVEF>55%. Pt was digressed 
with lasix 40 IV/QD with good urine output. Admission weight 
104kg. Discharge weight was 100kg.
.
# Hypertension: Pts SBP ranged from 160-220s. She was given 10 
IV hydrazine for hypertensive urgency and had good effect. She 
was also started on labetalol 200mg BID. Patient's home ACE and 
nifedipine were held initially.  SBP >160 and had trigger with 
SOB and SBP up to 220 on extensive home regimen. Given 10 IV 
hydralazine will good effect to SBP 160. BP better to 120's SBP 
on discharge upon resolution of home BP meds with some changes 
in doses per the Discharge med list.
.
# Acute kidney injury: likely ___ acute CHF exacerbation and 
poor forward flow. Baseline ~1.4-2.1. Cr peaked at 2.9 and 
trended down to 2.4 with diuresis and held ACE inhibitor 
originally but continued again upon discharge.
.
# DVT: patient reports DVT within past year but no corroborating 
records. He was continued on coumadin with goal INR ___ and his 
PCP confirmed he has hx of recurrent DVTs and for now is to be 
continued on lifetime Coumadin. 
.
# Hyperkalemia: likely secondary to renal failure. No concerning 
signs of hyperkalemia on EKG. K trended down to normal range by 
discharge.
.
# ___: Given recent chest pain and troponin 0.5/0.6/0.6/0.7, 
patient was ruled out for MI. EKG unchanged. Tele unremarkable. 
Trop likely elevated in setting of renal failure. MB remained 
flat. 
.
Transition of Care:
-Full Code
 
Medications on Admission:
DEPAKOTE 500 mg BID
CITALOPRAM - 40 mg Tablet - Tablet(s) by mouth once a day
DOXAZOSIN - 2 mg Tablet - 1 Tablet(s) by mouth once a day
FOLIC ACID - (Prescribed by Other Provider) - 1 mg Tablet - 1
Tablet(s) by mouth once a day
FUROSEMIDE [LASIX] - 80 mg QD
GABAPENTIN - (Prescribed by Other Provider) - 300 mg Capsule - 1
Capsule(s) by mouth twice a day
GLYBURIDE - (Prescribed by Other Provider) - 5 mg Tablet - 1
Tablet(s) by mouth once a day
HYDROCORTISONE - (Prescribed by Other Provider) - 1 % Cream -
apply topically as needed
IBUPROFEN - (Prescribed by Other Provider) - 600 mg Tablet - 1
Tablet(s) by mouth every six (6) hours as needed for pain
KETOCONAZOLE - (Prescribed by Other Provider) - 2 % Shampoo -
use as directed weekly
LISINOPRIL - (Prescribed by Other Provider) - 20 mg Tablet - 1
Tablet(s) by mouth once a day
LABETOLOL 200mg PO BID
LOPERAMIDE - (Prescribed by Other Provider) - 2 mg Capsule - 1
Capsule(s) by mouth twice a day as needed for diarhea
NIFEDIPINE - (Prescribed by Other Provider) - 30 mg Tablet
Extended Release - 2 Tablet(s) by mouth daily
SIMVASTATIN - (Prescribed by Other Provider) - 20 mg Tablet - 1
Tablet(s) by mouth once a day
WARFARIN [COUMADIN] - Dosage uncertain
at rehab last dose 3mg
ACETAMINOPHEN - (Prescribed by Other Provider) - 325 mg Tablet -
___ Tablet(s) by mouth three times a day
ASPIRIN - (Prescribed by Other Provider) - 81 mg Tablet, Delayed
Release (E.C.) - 1 Tablet(s) by mouth once a day
CYANOCOBALAMIN (VITAMIN B-12) [VITAMIN B-12] - (Prescribed by
Other Provider) - 100 mcg Tablet - 1 Tablet(s) by mouth once a
day
ERGOCALCIFEROL (VITAMIN D2) - (Prescribed by Other Provider) -
400 unit Capsule - 2 Capsule(s) by mouth once a day
INSULIN REGULAR HUMAN [HUMULIN R] - (Prescribed by Other
Provider) - 100 unit/mL Solution - use as directed
MAGNESIUM HYDROXIDE [MILK OF MAGNESIA] - (Prescribed by Other
Provider) - 400 mg/5 mL Suspension - 30 ml by mouth daily as
needed for constipation
NOVOLIN 70/30 INNOLET - (Prescribed by Other Provider) - 100
unit/mL (70-30) Insulin Pen - 22 units every morning, 12 units 
at
dinner
NPH INSULIN HUMAN RECOMB [HUMULIN N] - (Prescribed by Other
Provider) - 100 unit/mL Suspension - 20 units Q AM
 
Discharge Medications:
1. doxazosin 2 mg Tablet Sig: One (1) Tablet PO once a day.  
2. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
4. simvastatin 20 mg Tablet Sig: One (1) Tablet PO at bedtime.  
5. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
6. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. cyanocobalamin (vitamin B-12) 100 mcg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
9. nifedipine 60 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).  
10. warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___: But please check INR and manage as needed for INR goal ___.  

11. divalproex ___ mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO BID (2 times a day).  
12. insulin aspart 100 unit/mL Solution Sig: One (1)  
Subcutaneous qAC and qHS: Sliding scale per protocol.  
13. furosemide 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. labetalol 200 mg Tablet Sig: 1.5 Tablets PO BID (2 times a 
day).  
15. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
16. Novolin 70/30 100 unit/mL (70-30) Suspension Sig: One (1)  
Subcutaneous twice a day: 20 units  SC AM, 10 units SC ___.  
17. Lo-Peramide 2 mg Tablet Sig: One (1) Tablet PO twice a day 
as needed for diarrhea.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic diastolic heart failure
Acute kidney injury
Hypertensive Urgency
Chest pain NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure providing care for you during this 
hospitalization.

You were admitted to the hospital for heart failure (fluid 
backed up into your lungs). You were treated with a medication 
called lasix that helped you urinate the extra fluid out. Your 
breathing improved.

You also had some kidney injury, likely from your heart failure. 
Your kidney function improved back to your prior baseline with 
lasix.

Medication Changes: increased from 200mg to labetolol 300mg 
twice daily, decreased lisinopril from 20mg daily to 2.5mg daily 
(due to worsening renal function), Coumadin 5mg daily with goal 
___ lifelong. 70/30 NPH Insulin reduced to 20 units qAM and 10 
units qPM for hypoglycemia. Depakote reduced to 250mg BID. 
MEDICATIONS STOPPED: ibuprofen (can be harmful to kidney), 
glyburide (no longer needed now that on insulin). Celexa stopped 
per previous PCP ___.

You should have daily weights measured at rehab in the morning 
everyday and you should call primary care doctor if your weight 
increases more than 3 lbs in one day.

PLEASE MAKE SURE TO FOLLOW LOW SALT DIET AND LIMIT YOUR FLUID 
INTAKE TO 1.5L (6 glasses of fluid per day). 

Please resume your other medications as usual.
 
Followup Instructions:
___